US05686424
A -5° C. solution of L-isoleucine, N-[1-(carboxymethyl)-L-prolyl] benzylamide (0.212 g, 0.56 mmol, 1.0 eq), and triethylamine (96 uL, 65 mg, 0.65 mol, 1.15 eq), in acetonitrile (10 mL) was treated with isobutyl chloroformate (77 uL, 86 mg, 0.59 mmol, 1.05 eq) followed by cyclopentylamine (111 uL, 96 mg, 1.13 mmol, 2.0 eq). Workup as above provided 198 mg (79%) of L-isoleucine, N-[1-[2-(N-cyclopentylamino)-2-oxoethyl]-L-prolyl] benzylamide.

reactant | L-isoleucine, N-[1-(carboxymethyl)-L-prolyl] benzylamide | 0.56 mmol, 0.212 g, 1.0 eq | C(=O)(O)CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1 | C20H29N3O4
reactant | triethylamine | 0.65 mol, 96 uL, 65 mg, 1.15 eq | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.59 mmol, 77 uL, 86 mg, 1.05 eq | ClC(=O)OCC(C)C | C5H9ClO2
reactant | cyclopentylamine | 1.13 mmol, 111 uL, 96 mg, 2.0 eq | C1(CCCC1)N | C5H11N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | L-isoleucine, N-[1-[2-(N-cyclopentylamino)-2-oxoethyl]-L-prolyl] benzylamide | 198 mg, 79% | C1(CCCC1)NC(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C25H38N4O3
